US04220647
N-ethoxycarbonyl-p-chloroanilinoacetaldehyde diethyl acetal (3.0 g) and 3,4-dihydroxyphenethylamine hydrochloride (1.5 g) were added to a mixture of n-butyl alcohol (30 ml), water (5 ml) and 10% hydrochloric acid (0.5 ml), and then the mixture was refluxed for 4 hours in a stream of nitrogen. Above mentioned acetal (0.8 g) was further added to the mixture and the resultant mixture was refluxed for 4 hours. The solvent was distilled off from the reaction mixture and the residue was washed with ethyl acetate and then recrystallized from water to give 1-(N-ethoxycarbonyl-p-chloroanilinomethyl)-6,7-dihydroxy-1,2,3,4-tetrahydroisoquinoline hydrochloride, mp 208° to 210° C. and mp 214° to 215° C. Analysis: Calcd. for C19H21N2O4Cl.HCl.3/10H2O: C 54.50, H 5.44, N 6.69, Cl 16.93. Measured: C 54.29, H 5.57, N 6.70, Cl 16.69.

reactant | N-ethoxycarbonyl-p-chloroanilinoacetaldehyde diethyl acetal | 3.0 g | C(C)OC(CN(C1=CC=C(C=C1)Cl)C(=O)OCC)OCC | C15H22ClNO4
reactant | 3,4-dihydroxyphenethylamine hydrochloride | 1.5 g | Cl.OC=1C=C(CCN)C=CC1O
reactant | n-butyl alcohol | 30 ml | C(CCC)O | C4H10O
reactant | hydrochloric acid | 0.5 ml | Cl | ClH
solvent | water | 5 ml | O | H2O
product | 1-(N-ethoxycarbonyl-p-chloroanilinomethyl)-6,7-dihydroxy-1,2,3,4-tetrahydroisoquinoline hydrochloride | Cl.C(C)OC(=O)N(C1=CC=C(C=C1)Cl)CC1NCCC2=CC(=C(C=C12)O)O | InChI=1S/C19H21ClN2O4.ClH/c1-2-26-19(25)22(14-5-3-13(20)4-6-14)11-16-15-10-18(24)17(23)9-12(15)7-8-21-16;/h3-6,9-10,16,21,23-24H,2,7-8,11H2,1H3;1H
